US07501414B2
N-(4-Amino-2,6-diethyl-phenyl)-4-methyl-benzenesulfonamide
A solution of sodium dithionite (772 mg) in water (6 mL) was added to a solution of N-(2,6-diethyl-4-nitro-phenyl)-4-methyl-benzenesulfonamide (309 mg) in tetrahydrofuran (6 mL) and the resulting mixture was stirred at 50° C. for 20 hours. After cooling, the water was saturated with potassium carbonate and extracted with ethyl acetate (2×10 mL). The combined organic phases were dried over sodium sulfate, concentrated in vacuo and purified by flash chromatography to furnish 70 mg (25%) of the title compound as a off-white solid. The product was used directly in the following reaction without spectral characterization.

reactant | sodium dithionite | 772 mg | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | N-(2,6-diethyl-4-nitro-phenyl)-4-methyl-benzenesulfonamide | 309 mg | C(C)C1=C(C(=CC(=C1)[N+](=O)[O-])CC)NS(=O)(=O)C1=CC=C(C=C1)C | C17H20N2O4S
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | water | 6 mL | O | H2O
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
product | N-(4-Amino-2,6-diethyl-phenyl)-4-methyl-benzenesulfonamide | 70 mg, 25% | NC1=CC(=C(C(=C1)CC)NS(=O)(=O)C1=CC=C(C=C1)C)CC | C17H22N2O2S
